US05506256
B) (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-[1-hydroxy- 2-(4-methoxyphenoxy)ethyl]pyrrolidine
(2S)-1-(tert-Butoxycarbonyl)-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine (1.57 g) was dissolved in 4N hydrochloric acid/1,4-dioxane (23 ml), and the mixture was stirred at room temperature for 1 hour. The residue obtained by concentration and drying of the reaction mixture was dissolved in DMF (15 ml), and subjected to the condensation reaction using N-(tert-butoxycarbonyl)-L-proline (1.00 g), N-methylmorpholine (0.51 ml), HOBt (0.75 g) and DCC (0.96 g) in the same manner as in Example 46-C) to give 1.41 g of the title compound.

reactant | (2S)-1-(tert-Butoxycarbonyl)-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine | 1.57 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=C(C=C1)OC)O | C18H27NO5
reactant | N-(tert-butoxycarbonyl)-L-proline | 1.00 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | N-methylmorpholine | 0.51 ml | CN1CCOCC1 | C5H11NO
reactant | HOBt | 0.75 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.96 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | hydrochloric acid 1,4-dioxane | 4N, 23 ml | Cl.O1CCOCC1
product | (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-[1-hydroxy- 2-(4-methoxyphenoxy)ethyl]pyrrolidine | 1.41 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)OC)O)CCC1 | C23H34N2O6
